US05288727
5.1 g (18.1 mmol) of 4'-fluoro-2-(4-trifluoromethylphenyl)acetophenone was dissolved in 100 ml of ethanol, and 8.8 ml (181 mmol) of hydrazine monohydrate was added thereto. The mixture was refluxed under heating for 2 hours. After completion of the reaction, ethanol was distilled off under reduced pressure, and water was added to the residue. The mixture was extracted with dichloromethane. The extract was dried over an hydrous sodium sulfate, and the solvent was distilled off to obtain [4'-fluoro-2-(4-trifluoromethylphenyl)acetophenone]hydrazone as a yellow oily substance.

reactant | 4'-fluoro-2-(4-trifluoromethylphenyl)acetophenone | 18.1 mmol, 5.1 g | FC1=CC=C(C=C1)C(CC1=CC=C(C=C1)C(F)(F)F)=O | C15H10F4O
reactant | hydrazine monohydrate | 181 mmol, 8.8 ml | O.NN
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | [4'-fluoro-2-(4-trifluoromethylphenyl)acetophenone]hydrazone | FC1=CC=C(C=C1)C(CC1=CC=C(C=C1)C(F)(F)F)=NN | C15H12F4N2
